US03984465
Step A: 2-Benzyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone
Potassium tert-butoxide (1.68 g., 0.015 mole) in dry tert-butyl alcohol (40ml.) is added to a refluxing solution of 2-methyl-5-methoxy-6,7-dichloro-1-indanone in benzene (50 ml.). After refluxing for 30 minutes, benzyl bromide (1.72 g., 0.01 mole) in benzene (10 ml.) is added dropwise. After refluxing for an additional 30 minutes the mixture is cooled, water (10 ml.) is added and the mixture is evaporated to dryness. The residue is washed with water and taken up in ether. The ether solution is washed with water and a saturated sodium chloride solution, dried over sodium sulfate and evaporated. The syrupy residue of 2-benzyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone (3 g.) is used directly in the next step without purification.

reactant | Potassium tert-butoxide | 0.015 mole, 1.68 g | CC(C)([O-])C.[K+]
reactant | 2-methyl-5-methoxy-6,7-dichloro-1-indanone | CC1C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O | C11H10Cl2O2
reactant | benzyl bromide | 0.01 mole, 1.72 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 10 ml | O | H2O
solvent | tert-butyl alcohol | 40ml | C(C)(C)(C)O | C4H10O
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 10 ml | C1=CC=CC=C1 | C6H6
product | 2-Benzyl-2-methyl-5-methoxy-6,7-dichloro-1-indanone | C(C1=CC=CC=C1)C1(C(C2=C(C(=C(C=C2C1)OC)Cl)Cl)=O)C | C18H16Cl2O2
